US08076336B2
N*6*,N*6*-Diethyl-7,8-dimethyl-[1,2,4]triazolo[4,3-b]pyridazine-3,6-diamine
6-Chloro-7,8-dimethyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine (W2.006a, 800 mg and 650 mg divided between 2 microwave vessels) was initially charged each dissolved in 12 ml of diethylamine and admixed with 1-butyl-3-methylimidazolium hexafluorophosphate (150 μl). Subsequently, they were placed into the microwave at 180° C. for 4 h. In order to complete the reaction, they were placed again into the microwave at 180° C. for 4 h and then left to stand overnight. The two reaction mixtures were combined in a round-bottom flask and dried. The residue was admixed with water and extracted three times with dichloromethane. The combined organic phases were dried over sodium sulfate, filtered and concentrated. The residue was purified by means of preparative HPLC (met. F), and the clean product fractions were combined, freed of the acetonitrile under reduced pressure, alkalized with saturated potassium carbonate solution and extracted repeatedly with dichloromethane. The combined organic phases were dried over sodium sulfate, filtered and concentrated. 900 mg of the title compound were obtained.

reactant | 6-Chloro-7,8-dimethyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine | 800 mg | ClC=1C(=C(C=2N(N1)C(=NN2)N)C)C | C7H8ClN5
reactant | 1-butyl-3-methylimidazolium hexafluorophosphate | 150 μl | F[P-](F)(F)(F)(F)F.C(CCC)[N+]1=CN(C=C1)C
solvent | diethylamine | 12 ml | C(C)NCC | C4H11N
product | N*6*,N*6*-Diethyl-7,8-dimethyl-[1,2,4]triazolo[4,3-b]pyridazine-3,6-diamine | 900 mg | C(C)N(C=1C(=C(C=2N(N1)C(=NN2)N)C)C)CC | C11H18N6
